US06506901B2
Step A: t-Butyl-[4-benzyloxyphenoxy]-diphenylsilane
A mixture of 4-benzyloxyphenol (100 g, 360 mmol), t-butylchlorodiphenylsilane (72.8 g, 360 mmol), and imidazole (24.5 g, 360 mmol) in 1 L of methylene chloride was stirred overnight at ambient temperature. The reaction mixture was washed with water, sat'd NaHCO3 and brine. After drying (Na2SO4), the solvent was evaporated to provide, 155 g of the title compound

reactant | 4-benzyloxyphenol | 360 mmol, 100 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | t-butylchlorodiphenylsilane | 360 mmol, 72.8 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 360 mmol, 24.5 g | N1C=NC=C1 | C3H4N2
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
product | t-Butyl-[4-benzyloxyphenoxy]-diphenylsilane | 155 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C29H30O2Si
